US09255110B2
Acetic anhydride (5.6 g, 54.66 mmol) was added to a solution of 5-methoxy-2-methyl-phenylamine (5.0 g, 36.44 mmol) in pyridine (30 mL) and the resulting mixture was stirred at room temperature overnight. Water was added and the pH was adjusted to 5 by addition of an aqueous solution of hydrochloric acid (3 M). The resulting mixture was extracted with dichloromethane; the organic layer was separated and washed with a saturated aqueous solution of sodium bicarbonate and with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to afford 5.93 g of N-(5-methoxy-2-methyl-phenyl)-acetamide as a white solid without further purifications.

reactant | Acetic anhydride | 54.66 mmol, 5.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-methoxy-2-methyl-phenylamine | 36.44 mmol, 5.0 g | COC=1C=CC(=C(C1)N)C | C8H11NO
reactant | Water | O | H2O
reactant | hydrochloric acid | 3 M | Cl | ClH
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | N-(5-methoxy-2-methyl-phenyl)-acetamide | 5.93 g | COC=1C=CC(=C(C1)NC(C)=O)C | C10H13NO2
